Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old with DM 2, HTN, hyperlipidemia and h/o CVA is 
admitted with chest pain in the last two weeks.  Patient is a 
poor historian given memory trouble.  She remembers having chest 
pain under ther left breast traveling around the rib and 
?radiation to left shoulder when she woke up this morning.  Also 
experienced diaphoresis, shortness of breath and palpitations.  
No lower extremity edema, PND or orthopnea.
Functional status: patient is able to walk around with the help 
of walker but unclear distance.  No symtpoms with activity.
Denies fever, chills, or any other URI symptoms.  Denies 
hematuria, dysuria or diarrhea.  No blood in stool.
.

 
Past Medical History:
1.  Hyperlipidemia.  On Lipitor.
2.  Type 2 diabetes.  HbA1C ___.
3.  Hypertension, treated with lisinopril.
4.  Osteopenia, history of fracture.  Fosamax without 
complaints.
5.  Status post CVA, ___.  Right cerebral artery CVA, embolism. 

Recent increasing left-sided weakness, walker. Negative MRA. 
6.  Bladder urgency treated with Imipramine.  History of 
recurrent UTI on Macrobid prophylaxis.  
7.?  Neuropathy, left leg pain.
8.  GERD, treated with Prevacid.
9.  Recurrent falls.  Has had mild injuries in the past 
including
rib fractures.  No recent falls.
10. Short-term memory disorder. ?Age related versus Alzheimer's.
11. History of mildly abnormal liver function.

 
Social History:
___
Family History:
father had afib and CVA in ___

 
Physical Exam:
Vitals: T 98.4  BP 156/62  HR 94  RR 16  97% RA
Gen: Alert and awake, NAD
HEENT: PERRL, no conjunctivitis/icterus, MMM
Heart: nl S1S2 RRR
Lungs: CTAB
Abdomen: soft NTND, no organomegaly
Ext: WWP, no edema
Neuro: PERRL, strength ___ in left extremities and ___ in right 
extremities
.

 
Pertinent Results:
Admit Labs:
___ 02:15PM BLOOD WBC-9.8 RBC-3.59* Hgb-10.2* Hct-31.0* 
MCV-86 MCH-28.3 MCHC-32.8 RDW-13.2 Plt ___
___ 02:15PM BLOOD Neuts-74.4* ___ Monos-4.4 Eos-0.9 
Baso-0.4
___ 02:15PM BLOOD ___ PTT-21.8* ___
___ 02:15PM BLOOD Glucose-81 UreaN-29* Creat-0.9 Na-141 
K-5.0 Cl-107 HCO3-23 AnGap-16
___ 06:10AM BLOOD Mg-1.8 Iron-PND
___ 02:15PM BLOOD CK(CPK)-48
___ 09:30PM BLOOD CK(CPK)-46
___ 06:10AM BLOOD CK(CPK)-47
___ 02:15PM BLOOD cTropnT-0.06*
___ 09:30PM BLOOD CK-MB-NotDone cTropnT-0.06*
___ 06:10AM BLOOD CK-MB-NotDone cTropnT-0.07*
___ 11:18AM BLOOD CK-MB-NotDone cTropnT-0.08*
___ 06:15AM BLOOD CK-MB-NotDone cTropnT-0.09*
___ 11:18AM BLOOD CK(CPK)-38
___ 06:15AM BLOOD CK(CPK)-37
___ 06:10AM BLOOD calTIBC-400 Ferritn-14 TRF-308
.
CHEST (PA & LAT)  ___:
No acute cardiopulmonary process.
.
Chemical Stress ___: Prelim
This ___ year old (h/o type II DM; s/p CVA ___ 
woman was referred to the lab for the evaluation of chest 
discomfort. 
The patient was infused with 0.142 mg/kg/min of Persantine over 
4 
minutes. The patient denied any arm, neck, back, or chest 
discomfort 
throughout the procedure. 4 minutes post-infusion, there was 1 
mm of 
horizontal ST segment depression seen in the inferior leads and 
in leads 
V4-V6. These changes resolved slowly following the 
administration of 125 
mg aminophylline IV and were absent by 10 minutes post-infusion. 
The 
rhythm was sinus with isolated APBs. The hemodynamic response to 

the persantine infusion was appropriate.   
IMPRESSION: Ischemic persantine-induced EKG changes in the 
absence of 
anginal symptoms. Nuclear report sent separately. 
.
MIBI ___: 
Left ventricular cavity size is normal. 
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 57%. 
IMPRESSION: Normal myocardial perfusion, LV size and wall 
motion. 

 
Brief Hospital Course:
___ year old lady with DM 2, HTN, hyperlipidemia and h/o CVA is 
admitted with chest pain in the last two weeks.
.
# Chest pain: Resolved on arrival to Emergency Department.  
Symptom free througout this stay.  History concerning for 
cardiac ischemia. Mild troponin elevation but flat CKs.  Ruled 
out for MI. Risk factors include DM2, HTN, hyperlipidemia and 
history of stroke.  presantine MIBI did not show any areas of 
reversible ischemia.  Plan is to ___ medical management of 
stable coronary artery disease.  Continued on aspirini, 
lisinopril and atorvastatin.  Started on metoprolol which was 
switched to toprol XL on discharge.  
.
# Decreased HCT: No active bleeding during this stay.  
Hematocrit stable throughout this stay.  Guaic negative. 
Microcytic anemia with low boderline iron.  Started on iron 
panel. A GI work up for anemia should be performed as an 
outpatient.
.
# Diabetes Mellitus type 2: Last Hemoglobin A1C relatively 
normal.  Held out patient medications and kept on insulin 
sliding scale during this stay.  Discharged on home meds.
.
# Hyperlipidemia: Continued on out patient atorvastatin.
.
# history of cerebrovascular accident: Residual left sided 
weakness.  Not an active issue during this hospital stay.  
Continued on out pateint aggrenox.
.
# Recurrent Urinary Tract Infection: Continued out patient 
macrobid prophylaxis.  Also continued imipramine for urinary 
urgency.
.
# Osteopenia: Continued weekly fosamax. 
.
# Prophylaxis: Subcutaneous heparin, proton pump inhibitor
.
# Contact: Daughter, ___ ___, h ___
.
# Code: Full code, discussed with patient and family

 
Medications on Admission:
Aggrenox ___ bid
Calcium citrate + vit D 315mg- 200 unit bid
fosamax 70 mg
gas-X 80 mg
Glyburide 1.25 mg
Glucovance ___ mg bid
Imipramine 20mg
Lipitor 10 mg
Lisinopril 10 mg
Macrobid ___ mg three times a week
Metformin 500 mg
Prevacid 15 mg
Tums 300 mg 
MVI

 
Discharge Medications:
1. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QWED (every 
___.  
5. Gas-X 80 mg Tablet, Chewable Sig: One (1) Tablet, Chewable PO 
once a day.  
6. Glyburide 1.25 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Glucovance ___ mg Tablet Sig: One (1) Tablet PO twice a 
day.  
8. Imipramine HCl 10 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
9. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Aspirin 81 mg Tablet, Chewable Sig: Two (2) Tablet, Chewable 
PO DAILY (Daily).  
12. Nitrofurantoin (Macrocryst25%) 100 mg Capsule Sig: One (1) 
Capsule PO MWF (___).  
13. Prevacid 15 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
14. Tums 300 mg (750 mg) Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
15. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
16. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
17. Toprol XL 25 mg Tablet Sustained Release 24 hr Sig: Two (2) 
Tablet Sustained Release 24 hr PO at bedtime.
Disp:*60 Tablet Sustained Release 24 hr(s)* Refills:*2*
18. Aspirin EC 81 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO once a day.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Stable coronary artery disease
.
Secondary:
Diabetes Mellitus type 2
Hypertension
Hyperlipidemia
history of stroke
Osteopenia
Recurrent urinary tract infection

 
Discharge Condition:
Asymptomatic and hemodynamically stable.

 
Discharge Instructions:
You were admitted to ___ with 
chest pain.  You did not have a heart attack.  
.
Please take all the medications as written.  You will be started 
on torpol XL 50 mg at night for heart protective effect.  You 
will be started on iron supplement as you have slightly 
decreased iron level.  You will also be started on two baby 
aspirin a day on top of aggrenox.
.
Please keep all the follow up appointments.
.
If you develop chest pain, shortness of breath or any other 
concerning symptoms, please call your primary care doctor or 
come to the Emergency Department.
 
Followup Instructions:
___